US09388147B2
3-cyano-5-(trifluoromethoxy)benzoic acid
Prepared from methyl 3-cyano-5-(trifluoromethoxy)benzoate according to the procedure for 3-cyano-5-isopropoxybenzoic acid. LCMS-ESI (m/z) calculated for C9H4F3NO3: 231.1; no m/z observed, tR=2.38 min.

reactant | methyl 3-cyano-5-(trifluoromethoxy)benzoate | C(#N)C=1C=C(C(=O)OC)C=C(C1)OC(F)(F)F | C10H6F3NO3
reactant | 3-cyano-5-isopropoxybenzoic acid | C(#N)C=1C=C(C(=O)O)C=C(C1)OC(C)C | C11H11NO3
product | 3-cyano-5-(trifluoromethoxy)benzoic acid | C(#N)C=1C=C(C(=O)O)C=C(C1)OC(F)(F)F | C9H4F3NO3
